US07759379B2
4-isopropyl-3-nitroaniline
25 g (185 mmol) 4-isopropyl-aniline were dissolved in to 260 ml conc. sulfuric acid and treated at −5° C. with 17.9 g nitric acid (65%). After stirring the mixture at 0° C. for 0.5 h, the reaction mixture was poured on ice water and the precipitating product collected via filtration and dried. The resulting 23.8 g product were essentially pure and were used for the subsequent step without further purification.

reactant | 4-isopropyl-aniline | 185 mmol, 25 g | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
reactant | nitric acid | 17.9 g | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 260 ml | S(O)(O)(=O)=O | H2O4S
product | 4-isopropyl-3-nitroaniline | C(C)(C)C1=C(C=C(N)C=C1)[N+](=O)[O-] | C9H12N2O2
